US04576911
Synthesis of 1-(3,4-dichlorophenyl)-3-methacryloylamino-2-pyrazoline-5-one (Exemplified Compound 3)
Twenty grams (0.08 mole) of 1-(3,4-dichlorophenyl)-3-amino-2-pyrazoline-5-one, 15.2 ml (0.19 mole) of pyridine and 2.0 ml of nitrobenzene were added to 300 ml of tetrahydrofuran. To this mixture, cooled by ice, were added dropwise 19.6 g (0.19 mole) of methacryloyl chloride. The liquid, after 30-minute stirring, was poured into 2 liters of water, extracted with use of ethyl acetate, and dried with use of anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure at a temperature of from 25° to 35° C. To the remaining oily substance were added 60 ml of ethanol and 60 ml of water, and further a solution of 11.2 g (0.28 mole) of sodium hydroxide dissolved into water. This mixture was stirred for 30 minutes at room temperature, and neutralized with acetic acid. The thus deposited crystals were filtrated, and recrystallized from ethanol, whereby 14.4 g (57%) of Coupler Monomer (3) were obtained. M.P. 212°-213° C.

reactant | 1-(3,4-dichlorophenyl)-3-amino-2-pyrazoline-5-one | 0.08 mole, Twenty grams | ClC=1C=C(C=CC1Cl)N1N=C(CC1=O)N | C9H7Cl2N3O
reactant | pyridine | 0.19 mole, 15.2 ml | N1=CC=CC=C1 | C5H5N
reactant | nitrobenzene | 2.0 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | methacryloyl chloride | 0.19 mole, 19.6 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 0.28 mole, 11.2 g | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 2 liters | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-(3,4-dichlorophenyl)-3-methacryloylamino-2-pyrazoline-5-one | ClC=1C=C(C=CC1Cl)N1N=C(CC1=O)NC(C(=C)C)=O | C13H11Cl2N3O2
